US06939885B2
Synthesis of N-[4-Chloro-2-(pyridine-4-carbonyl)-phenyl]-4-methanesulfonyl-benzenesulfonamide
The title compound was prepared according to the general procedure for the synthesis of N-Aryl-benzenesulfonamides previously described using 116 mg of (2-amino-5-chloro-phenyl)-pyridin-4-yl-methanone and 127 mg of 4-methanesulfonyl-benzenesulfonyl chloride. 1H-NMR (400 MHz, CDCl3): δ 3.06 (s, 3H), 7.31 (d, 1H, J=2.0 Hz), 7.45 (m, 2H), 7.58 (dd, 1H, J=8.8 Hz, 2.8 Hz), 7.99 (b, 4H), 8.88 (dd, 2H, J=4.8 Hz, 1.6 Hz), 10.29 (b, 1H). MS: m/z 451.9 (M++1).

reactant | (2-amino-5-chloro-phenyl)-pyridin-4-yl-methanone | 116 mg | NC1=C(C=C(C=C1)Cl)C(=O)C1=CC=NC=C1 | C12H9ClN2O
reactant | 4-methanesulfonyl-benzenesulfonyl chloride | 127 mg | CS(=O)(=O)C1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO4S2
product | N-[4-Chloro-2-(pyridine-4-carbonyl)-phenyl]-4-methanesulfonyl-benzenesulfonamide | ClC1=CC(=C(C=C1)NS(=O)(=O)C1=CC=C(C=C1)S(=O)(=O)C)C(=O)C1=CC=NC=C1 | C19H15ClN2O5S2
